US09079853B2
3-(2-(1H-indol-3-yl)-2-oxoethyl)-5-chloro-3-hydroxy-1-propylindolin-2-one
This compound was made in a similar manner to 1-butyl-3-hydroxy-3-(2-oxo-2-(pyridin-2-yl)ethyl)indolin-2-one using 5-chloro-1-propylindoline-2,3-dione and commercially available 1-(1H-indol-3-yl)ethanone (purchased from Fisher Scientific). 1H-NMR δ 8.71 (bs, NH) 8.38 (m, 1H), 7.79 (d, 1H), 7.49 (d, 1H), 7.41 (m, 1H), 7.35-7.31 (m, 2H), 7.26 (m, 1H), 6.78 (d, 1H), 5.00 (bs, OH), 3.65 (m, 2H), 3.50 (d, 1H), 3.25 (d, 1H), 1.69 (m, 2H), 0.96 (t, 3H). calculated mass for C21H19ClN2O3, 382.11, observed, 383.1 (M+1).

reactant | 1-butyl-3-hydroxy-3-(2-oxo-2-(pyridin-2-yl)ethyl)indolin-2-one | C(CCC)N1C(C(C2=CC=CC=C12)(CC(C1=NC=CC=C1)=O)O)=O | C19H20N2O3
reactant | 5-chloro-1-propylindoline-2,3-dione | ClC=1C=C2C(C(N(C2=CC1)CCC)=O)=O | C11H10ClNO2
reactant | 1-(1H-indol-3-yl)ethanone | N1C=C(C2=CC=CC=C12)C(C)=O | C10H9NO
product | 3-(2-(1H-indol-3-yl)-2-oxoethyl)-5-chloro-3-hydroxy-1-propylindolin-2-one | N1C=C(C2=CC=CC=C12)C(CC1(C(N(C2=CC=C(C=C12)Cl)CCC)=O)O)=O | C21H19ClN2O3
